US06551682B1
Next, a reaction flask was loaded with 2-fluoro-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine (10 g) and ethanol (8 ml), followed by dropwise addition of a mixture of hydrazine monohydrate (7.7 g) and ethanol (8 ml) to the flask in 30 minutes with stirring. After the dropwise addition was ended, stirring was continued at 55 to 65° C. for one hour. The heating was stopped, and water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was condensed to give 2-hydrazino-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine (10 g).

reactant | 2-fluoro-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine | 10 g | FC1=NC(=CC=C1)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C10H6F9NO
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | hydrazine monohydrate | 7.7 g | O.NN
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-hydrazino-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine | 10 g | N(N)C1=NC(=CC=C1)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C10H9F8N3O
